US05554615
Potassium t-butoxide (8.4 g, 0.075 mol) was added to a solution of ethyl diethylphosphonoacetate (19 ml, 0.075 mol) in THF (200 ml) and the obtained mixture was stirred at room temperature for 30 minutes, followed by the addition of a solution of t-butyl p-formylbenzoate (10.3 g, 50 mmol) in THF (20 ml). The obtained mixture was stirred at room temperature for 30 minutes and poured into a saturated aqueous solution of ammonium chloride. The obtained mixture was extracted with ether. The organic layer was distilled to remove the solvent and the residue was subjected to silica gel column chromatography and eluted with a solvent (ethyl acetate/hexane=1:10) to give ethyl 4-(t-butoxycarbonyl)phenylacrylate. This product was catalytically reduced with 10% palladium-carbon (0.5 g) in methanol (200 ml) and thereafter added to a mixture comprising a 1N aqueous solution of sodium hydroxide (100 ml) and methanol (100 ml). The obtained mixture was stirred at room temperature for 2 hours. After the completion of the reaction, the reaction mixture was made weakly acidic with 1N aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was distilled to remove the solvent and the residue was purified by short silica gel column chromatography to give 4-(t-butoxycarbonyl)phenylpropionic acid. This acid was dissolved in THF (100 ml), followed by the dropwise addition of a 1M solution of BH3 in THF (100 ml) under cooling with ice. The obtained mixture was stirred at room temperature for one hour. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of ammonium chloride and the obtained mixture was extracted with ethyl acetate. The organic layer was distilled to remove the solvent and the residue was subjected to silica gel column chromatography and eluted with a solvent (ethyl acetate/hexane=1:1) to give 4-(t-butoxycarbonyl)phenylpropanol. This product was dissolved in ether (300 ml), followed by the addition of triethylamine (21 ml) and methanesulfonyl chloride (5.8 ml) under cooling with ice. The obtained mixture was stirred for 30 minutes. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of ammonium chloride and the obtained mixture was extracted with ether. The organic layer was distilled to remove the solvent, giving 4-(t-butoxycarbonyl)phenylpropyl mesylate. This product was dissolved in acetone (300 ml), followed by the addition of sodium iodide (30 g). The obtained mixture was heated under reflux for one hour. After the completion of the reaction, the reaction mixture was poured into a saturated aqueous solution of ammonium chloride and the obtained mixture was extracted with ether. The organic layer was distilled to remove the solvent. The residue was subjected to silica gel column chromatography and eluted with a solvent (ether/hexane=1:10) to give 14.5 g of the title compound as a colorless oil (84%).

reactant | Potassium t-butoxide | 0.075 mol, 8.4 g | CC(C)([O-])C.[K+]
reactant | ethyl diethylphosphonoacetate | 0.075 mol, 19 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | t-butyl p-formylbenzoate | 50 mmol, 10.3 g | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | ethyl 4-(t-butoxycarbonyl)phenylacrylate | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)C(C(=O)OCC)=C | C16H20O4
